US08497264B2
A vial was charged with (S)-3-bromo-7-iodo-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine, diisopropylamine (0.785 mL, 5.51 mmol), Pd(PPh3)4 (0.127 g, 0.110 mmol), copper(I) iodide (0.021 g, 0.110 mmol), and 3,3-dimethyl-1-butyne (0.203 mL, 1.652 mmol). DMF (3 mL) were added, the vial was sealed under argon and heated to 90° C. for 60 minutes. The reaction mixture was diluted with 2-MeTHF then washed with water. The organics were dried over MgSO4 and concentrated. Purification of the crude residue by column chromatography gave (S)-3-bromo-7-(3,3-dimethylbut-1-ynyl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.120 g, 0.281 mmol, 25.6% yield) as a white solid.

reactant | (S)-3-bromo-7-iodo-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@@]21COCC(=N1)N)I | C15H11BrIN3O2
reactant | diisopropylamine | 5.51 mmol, 0.785 mL | C(C)(C)NC(C)C | C6H15N
reactant | 3,3-dimethyl-1-butyne | 1.652 mmol, 0.203 mL | CC(C#C)(C)C | C6H10
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | 2-MeTHF | CC1CCCO1 | C5H10O
catalyst | Pd(PPh3)4 | 0.110 mmol, 0.127 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.110 mmol, 0.021 g | [Cu]I
product | (S)-3-bromo-7-(3,3-dimethylbut-1-ynyl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.281 mmol, 0.120 g, 25.6% yield | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@@]21COCC(=N1)N)C#CC(C)(C)C | C21H20BrN3O2
